US06809199B2
Step A: 4-(Bromomethylene)-1-tert-butylpiperidine
To a solution of (bromomethyl)triphenylphosphonium bromide (1.52 g, 3.48 mmol) in dry THF (15 mL) at −78° C. was added potassium tert-butoxide (3.5 mL, 1.0M) slowly. After stirring 20 minutes, 1-tert-butylpiperidin-4-one (COMPOUND PPA-1) (595 mg, 3.83 mmol) in THF (2 mL) was added, and the reaction mixture was warmed up to rt slowly over 2 h. The reaction mixture was quenched with brine, and it was extracted with CH2Cl2. The combined extracts were dried over Na2SO4 then concentrated in vacuo. The crude material was purified by flash chromatography eluting first with hexane then gradually increasing to 5% acetone/hexane to give the title compound. 1H NMR (CDCl3, 500 MHz): δ 5.85 (s, 1H); 2.56 (m, 4H); 2.43 (t, J=5.6 Hz, 2H); 2.28 (t, J=5.6 Hz, 2H); 1.08 (s, 9H).

reactant | (bromomethyl)triphenylphosphonium bromide | 3.48 mmol, 1.52 g | [Br-].BrC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 1.0M, 3.5 mL | CC(C)([O-])C.[K+]
reactant | 1-tert-butylpiperidin-4-one | 3.83 mmol, 595 mg | C(C)(C)(C)N1CCC(CC1)=O | C9H17NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(Bromomethylene)-1-tert-butylpiperidine | BrC=C1CCN(CC1)C(C)(C)C | C10H18BrN
